*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC500ARA121MJA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC500ARA121MJA0G_20deg-C 1 2

C1 4 2 8.94e-05
C2 5 2 1.05e-05
C3 6 2 5.04e-06
R1 3 4 1.61e-02
R2 4 5 2.08e-01
R3 5 6 3.49e+00
L1 1 3 4.50e-09

.ENDS
*$
